US05610165
Trans 1-(N-(3-chlorophenyl)-N-(phenyl)-aminocarbonyl)-2-(RS)-(2-(N-(2-methoxybenzyl)-N-methylamino)-ethylaminocarbonyl)piperidine-4-(RS)-carboxylic acid
A solution of 0.108 g (0.18 mmole) of trans methyl 1-(N-(3-chlorophenyl)-N-(phenyl)-aminocarbonyl)-2-(RS)-(2-(N-(2-methoxybenzyl) -N-methylamino)ethylaminocarbonyl)piperidine-4-(RS)carboxylate in 2.2 mL of dry THF was treated with 1.5 mL of water and then 0.073 mL of a 2.5N aqueous solution of sodium hydroxide, and the mixture was stirred at room temperature for 15 hr. The mixture was concentrated partly in a vigorous stream of nitrogen and partly in vacuo, and was used as is in further reactions.

reactant | trans methyl 1-(N-(3-chlorophenyl)-N-(phenyl)-aminocarbonyl)-2-(RS)-(2-(N-(2-methoxybenzyl) -N-methylamino)ethylaminocarbonyl)piperidine-4-(RS)carboxylate | 0.18 mmole, 0.108 g | ClC=1C=C(C=CC1)N(C(=O)N1[C@H](C[C@@H](CC1)C(=O)OC)C(=O)NCCN(C)CC1=C(C=CC=C1)OC)C1=CC=CC=C1 | C32H37ClN4O5
reactant | water | 1.5 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 2.2 mL | C1CCOC1 | C4H8O
product | Trans 1-(N-(3-chlorophenyl)-N-(phenyl)-aminocarbonyl)-2-(RS)-(2-(N-(2-methoxybenzyl)-N-methylamino)-ethylaminocarbonyl)piperidine-4-(RS)-carboxylic acid | ClC=1C=C(C=CC1)N(C(=O)N1[C@H](C[C@@H](CC1)C(=O)O)C(=O)NCCN(C)CC1=C(C=CC=C1)OC)C1=CC=CC=C1 | C31H35ClN4O5
